US03946019
A solution of 7H-indolizino[5,6,7-ij]isoquinolin-7-one (28 g.) and hydroxylamine hydrochloride (28 g.) in pyridine (560 cc.) is maintained at the boiling point, with stirring. The brown solution thus obtained is poured into water (3.92 liters). After stirring for 3 hours, the mustard yellow crystals obtained are filtered off and then washed copiously with water. After drying, 7-hydroxyimino-7H-indolizino[5,6,7-ij]isoquinoline (27.2 g.), melting at 254° C. with decomposition, is obtained. After recrystallisation from a mixture of water and pyridine (6- 5 by volume), the pure product melts at 258° C. with decomposition.

reactant | 7H-indolizino[5,6,7-ij]isoquinolin-7-one | 28 g | C1=CC=C2C=CN=C3C2=C1N1C=CC=C1C3=O | C14H8N2O
reactant | hydroxylamine hydrochloride | 28 g | Cl.NO
reactant | water | 3.92 liters | O | H2O
solvent | pyridine | 560 cc | N1=CC=CC=C1 | C5H5N
product | 7-hydroxyimino-7H-indolizino[5,6,7-ij]isoquinoline | 27.2 g | ON=C1C2=CC=CN2C=2C=CC=C3C=CN=C1C23 | C14H9N3O
